US08252935B2
d) 4-Methyl-2-{5-[1-(3-methyl-butyl)-piperidin-2-yl]-4′-trifluoromethyl-biphenyl-3-yl}-pentanoic acid
To a solution of 4-Methyl-2-{5-[1-(3-methyl-butyl)-piperidin-2-yl]-4′-trifluoromethyl-biphenyl-3-yl}-pentanoic acid ethyl ester, compound 10c (32.0 mg, 0.06 mmol)in EtOH (3 mL) was added 2M KOH (130 μl, 0.25 mmol). The reaction was heated to 78° C. for 2 hours, cooled to room temperature, and concentrated in vacuo. Purification via Gilson HPLC, followed by salt exchange with aqueous 1N HCl, followed by lyophilization gave the title compound as a white solid. (12.0 mg, 40%) 1H NMR (300 MHz, MeOD) δ ppm 0.70-0.77 (m, 6 H) 0.90-0.98 (m, 6 H) 1.32 (dt, J=11.59, 5.70 Hz, 1 H) 1.46-1.55 (m, 1 H) 1.63 (td, J=11.59, 6.22 Hz, 1 H) 1.71-1.87 (m, 2 H) 1.98-2.11 (m, 4 H) 2.13-2.18 (m, 1 H) 2.81-2.97 (m, 2 H) 3.22 (td, J=12.15, 3.96 Hz, 1 H) 3.71-3.87 (m, 2 H) 4.32-4.42 (m, 1 H) 7.54-7.60 (m, 1 H) 7.75-7.89 (m, 6 H) Calcd for C29H38F3NO2 (M+H) 489.61, Found 490.0.

reactant | 4-Methyl-2-{5-[1-(3-methyl-butyl)-piperidin-2-yl]-4′-trifluoromethyl-biphenyl-3-yl}-pentanoic acid ethyl ester | C(C)OC(C(CC(C)C)C=1C=C(C=C(C1)C1N(CCCC1)CCC(C)C)C1=CC=C(C=C1)C(F)(F)F)=O | C31H42F3NO2
reactant | KOH | 0.25 mmol, 2M, 130 μl | [OH-].[K+]
solvent | EtOH | 3 mL | CCO | C2H6O
product | 4-Methyl-2-{5-[1-(3-methyl-butyl)-piperidin-2-yl]-4′-trifluoromethyl-biphenyl-3-yl}-pentanoic acid | CC(CC(C(=O)O)C=1C=C(C=C(C1)C1N(CCCC1)CCC(C)C)C1=CC=C(C=C1)C(F)(F)F)C | C29H38F3NO2
